US07615562B2
(4-Benzo[b]thiophen-2-yl-5-methyl-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared analogous to Steps B and C of Method A, starting from benzo[b]thiophene-2-boronic acid, 2,4-dichloro-5-methyl-pyrimidine and 4-amino-2,2,6,6-tetramethylpiperidine.

reactant | benzo[b]thiophene-2-boronic acid | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | 2,4-dichloro-5-methyl-pyrimidine | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
product | (4-Benzo[b]thiophen-2-yl-5-methyl-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | S1C2=C(C=C1C1=NC(=NC=C1C)NC1CC(NC(C1)(C)C)(C)C)C=CC=C2 | C22H28N4S
